US04289905
Under a protective gas (argon), 2.8 g (0.011 mol) of nickel acetylacetonate and 2.8 g (0.011 mol) of triphenylphosphine in 75.7 g of absolute toluene, in which 61.0 g (1.13 mols) of 1,3-butadiene is dissolved, are reduced with 3 g (0.023 mol) of ethoxydiethyl aluminium at 0° to 20° C. The reaction mixture is stirred for one hour at 20° C., and is then cooled to 0° C. To the solution at this temperature is then added all at once 48.5 g (0.437 mol) of N-propylidene-(2-methylpropenylamine) [1-ethyl-4,4-dimethyl-2-aza-1,3-butadiene]. The reaction mixture is now heated to 40° C., and is kept at this temperature for 2 hours with continuous stirring. The reaction solution is then cooled to 0° C.; for the purpose of inactivating the catalyst, 17.2 g (55.5 mols) of triphenylphosphite is added, and the reaction mixture is repeatedly distilled. Distillation yields a total amount of 63.0 g (0.283 mol) of 3,3-dimethyl-12-ethyl-1-aza-1,5,9-cyclododecatriene; yield 64.9% of theory, relative to reacted N-propylidene-(2-methylpropenylamine) (conversion 100%); b.p. 65°-66° C./0.005 Torr; nD20 =1.4864.

reactant | 1,3-butadiene | 1.13 mols, 61.0 g | C=CC=C | C4H6
reactant | N-propylidene-(2-methylpropenylamine) | 0.437 mol, 48.5 g | C(CC)=NC=C(C)C | C7H13N
reactant | triphenylphosphite | 55.5 mols, 17.2 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | toluene | 75.7 g | C1(=CC=CC=C1)C | C7H8
catalyst | nickel acetylacetonate | 0.011 mol, 2.8 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
catalyst | triphenylphosphine | 0.011 mol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | ethoxydiethyl aluminium | 0.023 mol, 3 g | C(C)O[Al](CC)CC
product | 3,3-dimethyl-12-ethyl-1-aza-1,5,9-cyclododecatriene | 0.283 mol, 63.0 g, yield 64.9% | CC1(C=NC(CC=CCCC=CC1)CC)C | C15H25N
